US05616537
Preparation of Allyl 3-Acetylamino-5-[(4,6-dimethoxypyrimidin-2-yl)oxy]-2-methylindol-4-carboxylate (Compound No. 735)
0.5 g of allyl 5-[(4,6-dimethoxypyrimidin-2-yl)oxy]-2-methylindol-4-carboxylate was dissolved in 10 ml of pyridine, and 0.16 g of acetic anhydride was added thereto. The mixture was stirred for 12 hours. The reaction solution was poured into ice water and extracted with ethyl acetate. The organic layer was washed with water and then dried over anhydrous magnesium sulfate. The residue obtained by concentration under reduced pressure, was crystallized with isopropyl ether to obtain 0.49 g (yield: 87%) of the desired compound. mp: 177°-180° C.

reactant | allyl 5-[(4,6-dimethoxypyrimidin-2-yl)oxy]-2-methylindol-4-carboxylate | 0.5 g | COC1=NC(=NC(=C1)OC)OC1=C(C=2C=C(NC2C=C1)C)C(=O)OCC=C | C19H19N3O5
reactant | acetic anhydride | 0.16 g | C(C)(=O)OC(C)=O | C4H6O3
reactant | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
product | Allyl 3-Acetylamino-5-[(4,6-dimethoxypyrimidin-2-yl)oxy]-2-methylindol-4-carboxylate | 0.49 g, yield: 87% | C(C)(=O)NC1=C(NC=2C=CC(=C(C12)C(=O)OCC=C)OC1=NC(=CC(=N1)OC)OC)C | C21H22N4O6
